** sch_path: /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/phase-freq-detector/PFD_std_tb.sch
**.subckt PFD_std_tb
Vdd VDD GND 'VDD'
Vfvco F_VCO GND 0 pulse(0 'VDD' 2n 1n 1n 5n 10n)
Vfref F_REF GND 0 pulse(0 'VDD' 0n 1n 1n 5n 10n)
x1 VDD UP F_REF F_VCO DN GND PFD_std
**** begin user architecture code



.param RAW_TEMP = agauss(40, 30, 1)
.param TEMPGAUSS = max(20, min(RAW_TEMP, 80))
.option temp = 'TEMPGAUSS'
.param VDDGAUSS = agauss(1.2, 0.05, 1)

.param VDD = 'VDDGAUSS'
* analysis

.tran 100p 30n uic

.control
let i = 0
dowhile i < 10
  reset
  run
  write PFD_tb.raw
  set appendwrite
  reset
  let i = i + 1
end
quit
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.global VDD GND



**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/phase-freq-detector/PFD_std.sym # of
*+ pins=6
** sym_path: /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/phase-freq-detector/PFD_std.sym
** sch_path: /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/phase-freq-detector/PFD_std.sch
.subckt PFD_std VDD UP F_REF F_VCO DN GND
*.opin UP
*.ipin F_REF
*.ipin VDD
*.ipin GND
*.opin DN
*.ipin F_VCO
x1 net1 net2 F_REF VDD RST_N VDD GND sg13g2_dfrbp_2
x2 DN net3 F_VCO VDD RST_N VDD GND sg13g2_dfrbp_2
x3 RST_N net1 DN VDD GND sg13g2_nand2_2
x4 UP net1 VDD GND sg13g2_inv_2
.ends

.GLOBAL GND
.end
